US04981993
400 mmoles ethyl acrylate and 70 g (355 mmoles) of 95.5% by weight dibutoxyethanal in butanol were reacted using the method of example 1 to form 4,4-dibutoxy-2-ethoxycarbonyl-3-hydroxy-1-butene as a liquid which distilled at 120° C. under 0.4 mbar.

reactant | ethyl acrylate | 400 mmoles | C(C=C)(=O)OCC | C5H8O2
reactant | dibutoxyethanal | C(CCC)OC(C=O)OCCCC | C10H20O3
solvent | butanol | C(CCC)O | C4H10O
product | 4,4-dibutoxy-2-ethoxycarbonyl-3-hydroxy-1-butene | C(CCC)OC(C(C(=C)C(=O)OCC)O)OCCCC | C15H28O5
